US07368453B2
Synthesis of Ethyl(3S)-3-Hydroxy-L-Prolinate Hydrochloride
Acetyl chloride (10.8 mL, 153 mmol) was slowly added to ice cold 100% Ethanol (100 mL). (3S)-3-hydroxy-L-proline (5 g, 38.2 mmol) was added and heated at 100° C. for 16 hours. The ester was concentrated to a solid and used without purification. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.2 (t, J=8.1 Hz, 3 H) 1.9 (m, 2 H) 3.3 (m, 2 H) 4.1 (m, 1 H) 4.2 (q, J=7.1 Hz, 2 H) 4.4 (m, 1 H) 9.0 (s, 1 H) 10.4 (s, 1 H).

reactant | Acetyl chloride | 153 mmol, 10.8 mL | C(C)(=O)Cl | C2H3ClO
reactant | (3S)-3-hydroxy-L-proline | 38.2 mmol, 5 g | O[C@@H]1[C@H](NCC1)C(=O)O | C5H9NO3
product | Ethyl(3S)-3-Hydroxy-L-Prolinate Hydrochloride | Cl.O[C@@H]1[C@H](NCC1)C(=O)OCC | InChI=1S/C7H13NO3.ClH/c1-2-11-7(10)6-5(9)3-4-8-6;/h5-6,8-9H,2-4H2,1H3;1H/t5-,6-;/m0./s1
